US05114940
Indole (ex Aldrich) was reacted with chloroform and aqueous sodium hydroxide in the presence of triethylbenzyl ammonium chloride to give 3-chloroquinoline (cf. Sundo et al, Synthesis, 4, 249 (1976). The latter was converted to 2,3-dichloroquinoline, as for Example VII.

reactant | Indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzyl ammonium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 3-chloroquinoline | ClC=1C=NC2=CC=CC=C2C1 | C9H6ClN
